US07629344B2
Synthesis of 1-[(R)-4-(4-Chloro-3-methoxyphenyl)-2-methylpiperazin-1-yl]-2-[3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]ethanone
The title compound was prepared following Protocol A. (R)-1-(4-Chloro-3-methoxyphenyl)-3-methylpiperazine and [3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]acetic acid were used as the coupling components. The crude product was purified by silica gel chromatography (1% to 7.5% MeOH in CH2Cl2) to provide 1-[(R)-4-(4-chloro-3-methoxyphenyl)-2-methylpiperazin-1-yl]-2-[3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]ethanone as a tan solid: 1H NMR (CDCl3, 400 MHz) 8.75 (d, 0.6H), 8.66 (dd, 0.4H), 8.57-8.54 (m, 1H), 7.29-7.18 (m, 4H), 6.44-6.39 (m, 2H), 5.42 (br. s, 2H), 4.82 (br. s, 0.3H), 4.45 (br. s, 0.3H), 4.33 (br. s, 0.3H), 3.88 (s, 1.2H), 3.87 (s, 1.8H), 3.83 (br. s, 0.3H), 3.73-3.67 (m, 1H), 3.54-3.52 (m, 1H), 3.38 (br. s, 1H), 3.17-3.13 (m, 1H), 2.99 (br. s, 1H), 2.80 (br. s, 1H), 1.50-1.42 (m, 3H); LC/MS m/z (M+H)+ 466.4.

reactant | (R)-1-(4-Chloro-3-methoxyphenyl)-3-methylpiperazine | ClC1=C(C=C(C=C1)N1C[C@H](NCC1)C)OC | C12H17ClN2O
reactant | [3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]acetic acid | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
product | 1-[(R)-4-(4-chloro-3-methoxyphenyl)-2-methylpiperazin-1-yl]-2-[3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]ethanone | ClC1=C(C=C(C=C1)N1C[C@H](N(CC1)C(CN1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O)C)OC | C23H24ClN7O2
